US08791275B2
N-(Pyridin-4-yl)-oleamide
Reaction of oleic acid (1.00 g, 3.54 mmol) with 4-aminopyridine (0.33 g, 3.54 mmol) was conducted according to the general amide coupling procedure using DCC to obtain the product as a colorless liquid (0.91 g, 72%). EIMS m/z: 359 ([M]+).

reactant | oleic acid | 3.54 mmol, 1.00 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | 4-aminopyridine | 3.54 mmol, 0.33 g | NC1=CC=NC=C1 | C5H6N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | N-(Pyridin-4-yl)-oleamide | 0.91 g, 72% | N1=CC=C(C=C1)NC(CCCCCCC\C=C/CCCCCCCC)=O | C23H38N2O
